US09290468B2
Step 5: methyl 4-azido-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate
To a solution of methyl 5-(4-methoxybenzylthio)-3,4-difluoro-2-((2-chlorophenyl)amino)benzoate (24.18 g, 53.75 mmol) in DMF (200 mL) was added NaN3 (4.19 g, 64.49 mmol) at ambient temperature. The mixture was stirred at 90° C. for 3 h. Then water (200 mL) was added. The solution was extracted with ethyl acetate (100 mL×3). The combined organic extracts were washed with water (100 mL) and brine (100 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate, 10:1, v/v) and gave the desired product (pale yellow solid, 21.63 g, 85.1% yield). 1H NMR (400 MHz, CDCl3): δ 9.01 (s, 1H), 7.80 (s, 1H), 7.33 (m, 4H), 7.15 (m, 1H), 6.90 (m, 1H), 6.85 (m, 2H), 4.05 (s, 2H), 3.92 (s, 3H), 3.81 (s, 3H).

reactant | methyl 5-(4-methoxybenzylthio)-3,4-difluoro-2-((2-chlorophenyl)amino)benzoate | 53.75 mmol, 24.18 g | COC1=CC=C(CSC=2C(=C(C(=C(C(=O)OC)C2)NC2=C(C=CC=C2)Cl)F)F)C=C1 | C22H18ClF2NO3S
reactant | NaN3 | 64.49 mmol, 4.19 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | methyl 4-azido-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate | 21.63 g, 85.1% yield | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)Cl)F | C22H18ClFN4O3S
